Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])[O:8][H:9].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-5.48496026059
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],5.16130819525
[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.23361441302
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.438598280002
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](#[C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.24218024167
[C:5]([H:6])#[C:7][H:8].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],1.66800639418
[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.91117525821
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.81540182351
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.05939119709
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],4.583420789040001
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],3.84373581053
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[C:7](=[O:8])[H:9],1.49669382087
[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5][C:9]([H:10])([H:11])[H:12],7.54628765607
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8],4.58155597184
[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:1]#[C:2][O:3][C:4].[C:5][O:6][H:7],3.97359838141
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](\[H:4])(=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.86512338196
[C:1]#[C:2][O:3][C:4]#[C:5].[O:6][H:7]>>[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7],-6.75198325645
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.0370066165700003
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9],3.8872099856
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.76193547005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],3.9322894825
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13].[H:14],4.607149461790001
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.65274120401
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.29774218358
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.59391564182
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.61777759624
[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-3.98331057243
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],4.03830203165
